US08026257B2
7-(((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole.
To a solution of 7-(((4-(4-fluorophenyl)piperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole (50 mg, 0.123 mmol) and sodium cyanoborohydride (7.7 mg, 0.123 mmol) in acetonitrile (1 mL) at room temperature was added formalin (25 μL). To this was added 1 drop of acetic acid. After 5 min, a second drop of acetic acid was added and the reaction stirred at room temperature for 15 min. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was washed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated. The product was purified by preparative HPLC. The trifluoroacetic acid salt was loaded onto a strong cation exchange cartridge in methanol. The cartridge was washed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 28 mg (54%). 1H-NMR (CDCl3, 500 MHz) δ 9.81 (bs, 1H), 8.06 (s, 1H), 7.94 (s, 1H), 7.33 (m, 2H), 7.26 (s, 1H), 7.12 (m, 2H), 4.73 (s, 2H), 3.54 (s, 2H), 2.55 (m, 2H), 2.22 (m, 7H), 1.96 (m, 2H); 13C-NMR (CDCl3, 126 MHz) δ 162.6, 160.6, 139.6, 135.4, 128.7, 128.6, 124.7 (q, J=272 Hz), 123.3 (q, J=32 Hz), 122.9, 121.8, 120.3 (q, J=2.9 Hz), 118.4 (q, J=4.8 Hz), 115.8, 115.6, 80.4, 71.9, 51.8, 46.3, 40.3, 32.9. Mass spec.: 422.13 (MH)+. Accurate mass spec.: m/z 422.1836 [MH]+, Δ=4.6 ppm.

reactant | 7-(((4-(4-fluorophenyl)piperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole | 0.123 mmol, 50 mg | FC1=CC=C(C=C1)C1(CCNCC1)COCC=1C=C(C=C2C=NNC12)C(F)(F)F | C21H21F4N3O
reactant | sodium cyanoborohydride | 0.123 mmol, 7.7 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 25 μL | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 7-(((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole | FC1=CC=C(C=C1)C1(CCN(CC1)C)COCC=1C=C(C=C2C=NNC12)C(F)(F)F | C22H23F4N3O
